subckt IAC VINN VINP VOUT IBIAS VDD VSS
C1 (net045 VSS) capacitor c=1p  //// *C_a*
C0 (net035 VOUT) capacitor c=1p  //// Miller cap

NM15 (net51 IBIAS2 VSS VSS) mn18 w=(1u) l=1u //// *Load* *gm2*
NM14 (net021 IBIAS net51 VSS) mn18 w=(1u) l=1u //// *Load* *gm2*
NM12 (net012 IBIAS2 VSS VSS) mn18 w=(1u) l=1u //// *Current tail* *gm1*
NM11 (net035 VINP net012 VSS) mn18 w=(1u) l=1u //// *Input* *gm1* ``NM10``
NM10 (net013 VINN net012 VSS) mn18 w=(1u) l=1u //// *Input* *gm1* ``NM11``
NM8 (VOUT net55 VSS VSS) mn18 w=(1u) l=1u //// *Input* *gm3*
NM7 (net51 net021 VSS VSS) mn18 w=(1u) l=1u //// *Load* *gm2* ``NM4``
NM4 (net55 net021 VSS VSS) mn18 w=(1u) l=1u //// *Load* *gm2* ``NM7``
R2 (net55 net045) resistor r=750K l=1u ////*R_A*
PM9 (net013 net013 VDD VDD) mp18 w=(1u) l=1u //// *Load* *gm1* ``PM8``
PM8 (net035 net013 VDD VDD) mp18 w=(1u) l=1u //// *Load* *gm1* ``PM9``
PM7 (VOUT net035 VDD VDD) mp18 w=(1u) l=1u //// *Load* *gm3* *Input* *gmf* 
PM06 (net021 net035 VDD VDD) mp18 w=(1u) l=1u //// *Input* *gm2*
PM5 (net055 IBIASP1 VDD VDD) mp18 w=(1u) l=1u //// *Load* *gm2*  ``PM12``
PM12 (net55 IBIASP2 net055 VDD) mp18 w=(1u) l=1u //// *Load* *gm2* ``PM5``
PM11 (net67 IBIASP1 VDD VDD) mp18 w=(1u) l=1u ////Bias Transistor, should not change
PM10 (IBIASP1 IBIASP2 net67 VDD) mp18 w=(1u) l=1u ////Bias Transistor, should not change
NM22 (IBIASP2 IBIAS net68 VSS) mn18 w=(1u) l=1u ////Bias Transistor, should not change
NM5 (IBIAS2 IBIAS net69 VSS) mn18 w=(1u) l=1u ////Bias Transistor, should not change
NM23 (net68 IBIAS2 VSS VSS) mn18 w=(1u) l=1u ////Bias Transistor, should not change
NM6 (net69 IBIAS2 VSS VSS) mn18 w=(1u) l=1u ////Bias Transistor, should not change
R0 (IBIAS IBIAS2) resistor r=100K ////Bias Resistor, should not change
R1 (IBIASP1 IBIASP2) resistor r=100K ////Bias Resistor, should not change
ends IAC
